US05439792
To make the N-t-butyloxycarbonyl derivative, 23 g of solid di-t-butyl dicarbonate was slowly added to a vigorously stirring mixture of 18.9 g S-ethylcarbamoylcysteine, 180 ml dimethyl sulfoxide and 16.4 ml diisopropylethylamine. The mixture was stirred for 2 hrs at room temperature before 400 ml ice water plus 100 ml of saturated sodium chloride was added. Hydrochloric acid was added to adjust the pH of the mixture to 2.0 and the aqueous mixture was washed with two, 200 ml portions of ethyl acetate. The organic extracts were combined and evaporated under vacuum. The residue was recrystallized from ethyl acetate/hexane followed by recrystallization from 20% ethanol/water. A 19.4 g yield of N-t-butyloxycarbonyl-S-ethylcarbamoylcysteine was obtained.

reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | S-ethylcarbamoylcysteine | 18.9 g | C(C)NC(=O)SC[C@H](N)C(=O)O | C6H12N2O3S
reactant | diisopropylethylamine | 16.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 180 ml | CS(=O)C | C2H6OS
product | N-t-butyloxycarbonyl-S-ethylcarbamoylcysteine | C(C)(C)(C)OC(=O)N[C@@H](CSC(NCC)=O)C(=O)O | C11H20N2O5S
